// Generated for: spectre
// Generated on: Aug 17 17:51:14 2024
// Design library name: Buck
// Design cell name: tb
// Design view name: schematic
simulator lang=spectre
global 0
parameters T_INTEG=10u ILOAD=1.5 T_TRAN=60u CBST=0.5p COUT=22u D=0.3 DCR=25m ESR=4m fsw=4M VIN=3.3 L=0.24u N2=140 N1=100
include "/data/PDK/pdk_installed/tsmc180bcd_g2/pdk/pdk_1p6m/tsmc18/../models/spectre/c018bcd_gen2_v1d6_usage.scs" section=pre_simu
include "/data/PDK/pdk_installed/tsmc180bcd_g2/pdk/pdk_1p6m/tsmc18/../models/spectre/c018bcd_gen2_v1d6_usage.scs" section=tt_lib

// Library name: Buck
// Cell name: driver_s2
// View name: schematic
subckt driver_s2 IN OUT VDD VSS
    M45 (OUT net028 VDD VDD) pch_5_mac l=500n w=50u multi=N2 nf=1 sigma=1 \
        sd=540.0n ad=2.4e-11 as=2.4e-11 pd=100.96u ps=100.96u nrd=0.0054 \
        nrs=0.0054 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 mismatchflag=1
    M46 (net028 net026 VDD VDD) pch_5_mac l=500n w=3u multi=N2 nf=1 \
        sigma=1 sd=540.0n ad=1.44e-12 as=1.44e-12 pd=6.96u ps=6.96u \
        nrd=0.09 nrs=0.09 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 \
        mismatchflag=1
    M47 (net026 net024 VDD VDD) pch_5_mac l=500n w=3u multi=0.1*N2 nf=1 \
        sigma=1 sd=540.0n ad=1.44e-12 as=1.44e-12 pd=6.96u ps=6.96u \
        nrd=0.09 nrs=0.09 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 \
        mismatchflag=1
    M48 (net024 IN VDD VDD) pch_5_mac l=500n w=1u multi=0.1*N2 nf=1 \
        sigma=1 sd=540.0n ad=4.8e-13 as=4.8e-13 pd=2.96u ps=2.96u nrd=0.27 \
        nrs=0.27 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 mismatchflag=1
    M41 (OUT net028 VSS VSS) nch_5_mac l=600n w=50u multi=N2 nf=1 sigma=1 \
        sd=540.0n ad=2.4e-11 as=2.4e-11 pd=100.96u ps=100.96u nrd=0.0054 \
        nrs=0.0054 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 mismatchflag=1
    M42 (net028 net026 VSS VSS) nch_5_mac l=600n w=3u multi=N2 nf=1 \
        sigma=1 sd=540.0n ad=1.44e-12 as=1.44e-12 pd=6.96u ps=6.96u \
        nrd=0.09 nrs=0.09 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 \
        mismatchflag=1
    M43 (net026 net024 VSS VSS) nch_5_mac l=600n w=3u multi=0.1*N2 nf=1 \
        sigma=1 sd=540.0n ad=1.44e-12 as=1.44e-12 pd=6.96u ps=6.96u \
        nrd=0.09 nrs=0.09 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 \
        mismatchflag=1
    M44 (net024 IN VSS VSS) nch_5_mac l=600n w=1u multi=0.1*N2 nf=1 \
        sigma=1 sd=540.0n ad=4.8e-13 as=4.8e-13 pd=2.96u ps=2.96u nrd=0.27 \
        nrs=0.27 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 mismatchflag=1
ends driver_s2
// End of subcircuit definition.

// Library name: tsmc18_stdc_5v
// Cell name: DEL4
// View name: schematic
subckt DEL4 I Z VDD VSS
    MI4\-M_u3 (net33 net45 VDD VDD) pch_5 l=1.09u w=420.0n m=1 nf=1 \
        sd=540.0n ad=2.016e-13 as=2.016e-13 pd=1.8u ps=1.8u nrd=0.642857 \
        nrs=0.642857 sa=480.0n sb=480.0n sca=0 scb=0 scc=0
    MI8\-M_u3 (net11 net33 VDD VDD) pch_5 l=1.09u w=420.0n m=1 nf=1 \
        sd=540.0n ad=2.016e-13 as=2.016e-13 pd=1.8u ps=1.8u nrd=0.642857 \
        nrs=0.642857 sa=480.0n sb=480.0n sca=0 scb=0 scc=0
    MI3\-M_u3 (Z net9 VDD VDD) pch_5 l=500n w=1.62u m=1 nf=1 sd=540.0n \
        ad=7.776e-13 as=7.776e-13 pd=4.2u ps=4.2u nrd=0.166667 \
        nrs=0.166667 sa=480.0n sb=480.0n sca=0 scb=0 scc=0
    MI7\-M_u3 (net9 net11 VDD VDD) pch_5 l=1.09u w=420.0n m=1 nf=1 \
        sd=540.0n ad=2.016e-13 as=2.016e-13 pd=1.8u ps=1.8u nrd=0.642857 \
        nrs=0.642857 sa=480.0n sb=480.0n sca=0 scb=0 scc=0
    MI6\-M_u3 (net5 I VDD VDD) pch_5 l=500n w=1.62u m=1 nf=1 sd=540.0n \
        ad=7.776e-13 as=7.776e-13 pd=4.2u ps=4.2u nrd=0.166667 \
        nrs=0.166667 sa=480.0n sb=480.0n sca=0 scb=0 scc=0
    MI5\-M_u3 (net45 net5 VDD VDD) pch_5 l=1.09u w=420.0n m=1 nf=1 \
        sd=540.0n ad=2.016e-13 as=2.016e-13 pd=1.8u ps=1.8u nrd=0.642857 \
        nrs=0.642857 sa=480.0n sb=480.0n sca=0 scb=0 scc=0
    MI5\-M_u2 (net45 net5 VSS VSS) nch_5 l=1.09u w=1.26u m=1 nf=1 \
        sd=540.0n ad=6.048e-13 as=6.048e-13 pd=3.48u ps=3.48u nrd=0.214286 \
        nrs=0.214286 sa=480.0n sb=480.0n sca=0 scb=0 scc=0
    MI8\-M_u2 (net11 net33 VSS VSS) nch_5 l=1.09u w=420.0n m=1 nf=1 \
        sd=540.0n ad=2.016e-13 as=2.016e-13 pd=1.8u ps=1.8u nrd=0.642857 \
        nrs=0.642857 sa=480.0n sb=480.0n sca=0 scb=0 scc=0
    MI3\-M_u2 (Z net9 VSS VSS) nch_5 l=600n w=1.26u m=1 nf=1 sd=540.0n \
        ad=6.048e-13 as=6.048e-13 pd=3.48u ps=3.48u nrd=0.214286 \
        nrs=0.214286 sa=480.0n sb=480.0n sca=0 scb=0 scc=0
    MI4\-M_u2 (net33 net45 VSS VSS) nch_5 l=1.09u w=420.0n m=1 nf=1 \
        sd=540.0n ad=2.016e-13 as=2.016e-13 pd=1.8u ps=1.8u nrd=0.642857 \
        nrs=0.642857 sa=480.0n sb=480.0n sca=0 scb=0 scc=0
    MI6\-M_u2 (net5 I VSS VSS) nch_5 l=600n w=1.26u m=1 nf=1 sd=540.0n \
        ad=6.048e-13 as=6.048e-13 pd=3.48u ps=3.48u nrd=0.214286 \
        nrs=0.214286 sa=480.0n sb=480.0n sca=0 scb=0 scc=0
    MI7\-M_u2 (net9 net11 VSS VSS) nch_5 l=1.09u w=1.26u m=1 nf=1 \
        sd=540.0n ad=6.048e-13 as=6.048e-13 pd=3.48u ps=3.48u nrd=0.214286 \
        nrs=0.214286 sa=480.0n sb=480.0n sca=0 scb=0 scc=0
ends DEL4
// End of subcircuit definition.

// Library name: tsmc18_stdc_5v
// Cell name: INVD0
// View name: schematic
subckt INVD0 I ZN VDD VSS
    MU1\-M_u2 (ZN I VSS VSS) nch_5 l=600n w=630.0n m=1 nf=1 sd=540.0n \
        ad=3.024e-13 as=3.024e-13 pd=2.22u ps=2.22u nrd=0.428571 \
        nrs=0.428571 sa=480.0n sb=480.0n sca=0 scb=0 scc=0
    MU1\-M_u3 (ZN I VDD VDD) pch_5 l=500n w=810.0n m=1 nf=1 sd=540.0n \
        ad=3.888e-13 as=3.888e-13 pd=2.58u ps=2.58u nrd=0.333333 \
        nrs=0.333333 sa=480.0n sb=480.0n sca=0 scb=0 scc=0
ends INVD0
// End of subcircuit definition.

// Library name: tsmc18_stdc_5v
// Cell name: BUFFD0
// View name: schematic
subckt BUFFD0 I Z VDD VSS
    MI2\-M_u3 (net5 I VDD VDD) pch_5 l=500n w=810.0n m=1 nf=1 sd=540.0n \
        ad=3.888e-13 as=3.888e-13 pd=2.58u ps=2.58u nrd=0.333333 \
        nrs=0.333333 sa=480.0n sb=480.0n sca=0 scb=0 scc=0
    MI1\-M_u3 (Z net5 VDD VDD) pch_5 l=500n w=810.0n m=1 nf=1 sd=540.0n \
        ad=3.888e-13 as=3.888e-13 pd=2.58u ps=2.58u nrd=0.333333 \
        nrs=0.333333 sa=480.0n sb=480.0n sca=0 scb=0 scc=0
    MI2\-M_u2 (net5 I VSS VSS) nch_5 l=600n w=630.0n m=1 nf=1 sd=540.0n \
        ad=3.024e-13 as=3.024e-13 pd=2.22u ps=2.22u nrd=0.428571 \
        nrs=0.428571 sa=480.0n sb=480.0n sca=0 scb=0 scc=0
    MI1\-M_u2 (Z net5 VSS VSS) nch_5 l=600n w=630.0n m=1 nf=1 sd=540.0n \
        ad=3.024e-13 as=3.024e-13 pd=2.22u ps=2.22u nrd=0.428571 \
        nrs=0.428571 sa=480.0n sb=480.0n sca=0 scb=0 scc=0
ends BUFFD0
// End of subcircuit definition.

// Library name: Buck
// Cell name: deadtime
// View name: schematic
subckt deadtime IN OUT1 OUT2 VDD VSS
    M15 (net09 net28 net24 net24) pch_5_mac l=500n w=2u multi=1 nf=1 \
        sigma=1 sd=540n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480n sb=480n sca=0 scb=0 scc=0 mismatchflag=1
    M14 (net24 IN VDD VDD) pch_5_mac l=500n w=2u multi=1 nf=1 sigma=1 \
        sd=540n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480n sb=480n sca=0 scb=0 scc=0 mismatchflag=1
    M11 (net010 IN VDD VDD) pch_5_mac l=500n w=2u multi=1 nf=1 sigma=1 \
        sd=540n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480n sb=480n sca=0 scb=0 scc=0 mismatchflag=1
    I9 (net36 net34 VDD VSS) DEL4
    I47 (IN net36 VDD VSS) DEL4
    I8 (net35 net28 VDD VSS) DEL4
    I50 (IN net35 VDD VSS) DEL4
    I0 (net010 OUT1 VDD VSS) INVD0
    I1 (net09 OUT2 VDD VSS) BUFFD0
    M16 (net09 IN VSS VSS) nch_5_mac l=600n w=2u multi=1 nf=1 sigma=1 \
        sd=540n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480n sb=480n sca=0 scb=0 scc=0 mismatchflag=1
    M13 (net21 IN VSS VSS) nch_5_mac l=600n w=2u multi=1 nf=1 sigma=1 \
        sd=540n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480n sb=480n sca=0 scb=0 scc=0 mismatchflag=1
    M12 (net010 net34 net21 net21) nch_5_mac l=600n w=2u multi=1 nf=1 \
        sigma=1 sd=540n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480n sb=480n sca=0 scb=0 scc=0 mismatchflag=1
ends deadtime
// End of subcircuit definition.

// Library name: Buck
// Cell name: driver_s1
// View name: schematic
subckt driver_s1 IN OUT VDD VSS
    M31 (OUT net16 VDD VDD) pch_5_mac l=500n w=50u multi=N1 nf=1 sigma=1 \
        sd=540.0n ad=2.4e-11 as=2.4e-11 pd=100.96u ps=100.96u nrd=0.0054 \
        nrs=0.0054 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 mismatchflag=1
    M33 (net16 net14 VDD VDD) pch_5_mac l=500n w=3u multi=N1 nf=1 sigma=1 \
        sd=540.0n ad=1.44e-12 as=1.44e-12 pd=6.96u ps=6.96u nrd=0.09 \
        nrs=0.09 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 mismatchflag=1
    M37 (net14 net13 VDD VDD) pch_5_mac l=500n w=3u multi=0.1*N1 nf=1 \
        sigma=1 sd=540.0n ad=1.44e-12 as=1.44e-12 pd=6.96u ps=6.96u \
        nrd=0.09 nrs=0.09 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 \
        mismatchflag=1
    M38 (net13 IN VDD VDD) pch_5_mac l=500n w=1u multi=0.1*N1 nf=1 sigma=1 \
        sd=540.0n ad=4.8e-13 as=4.8e-13 pd=2.96u ps=2.96u nrd=0.27 \
        nrs=0.27 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 mismatchflag=1
    M32 (OUT net16 VSS VSS) nch_5_mac l=600n w=50u multi=N1 nf=1 sigma=1 \
        sd=540.0n ad=2.4e-11 as=2.4e-11 pd=100.96u ps=100.96u nrd=0.0054 \
        nrs=0.0054 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 mismatchflag=1
    M34 (net16 net14 VSS VSS) nch_5_mac l=600n w=3u multi=N1 nf=1 sigma=1 \
        sd=540.0n ad=1.44e-12 as=1.44e-12 pd=6.96u ps=6.96u nrd=0.09 \
        nrs=0.09 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 mismatchflag=1
    M35 (net14 net13 VSS VSS) nch_5_mac l=600n w=3u multi=0.1*N1 nf=1 \
        sigma=1 sd=540.0n ad=1.44e-12 as=1.44e-12 pd=6.96u ps=6.96u \
        nrd=0.09 nrs=0.09 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 \
        mismatchflag=1
    M36 (net13 IN VSS VSS) nch_5_mac l=600n w=1u multi=0.1*N1 nf=1 sigma=1 \
        sd=540.0n ad=4.8e-13 as=4.8e-13 pd=2.96u ps=2.96u nrd=0.27 \
        nrs=0.27 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 mismatchflag=1
ends driver_s1
// End of subcircuit definition.

// Library name: tsmc18_stdc_5v
// Cell name: INVD1
// View name: schematic
subckt INVD1 I ZN VDD VSS
    MU1\-M_u2 (ZN I VSS VSS) nch_5 l=600n w=1.26u m=1 nf=1 sd=540.0n \
        ad=6.048e-13 as=6.048e-13 pd=3.48u ps=3.48u nrd=0.214286 \
        nrs=0.214286 sa=480.0n sb=480.0n sca=0 scb=0 scc=0
    MU1\-M_u3 (ZN I VDD VDD) pch_5 l=500n w=1.62u m=1 nf=1 sd=540.0n \
        ad=7.776e-13 as=7.776e-13 pd=4.2u ps=4.2u nrd=0.166667 \
        nrs=0.166667 sa=480.0n sb=480.0n sca=0 scb=0 scc=0
ends INVD1
// End of subcircuit definition.

// Library name: Buck
// Cell name: level_shifter
// View name: schematic
subckt level_shifter IN OUT VDDH VDDL VSSH VSSL
    M23 (VSM VS VDDH VDDH) pch_5_mac l=500n w=2u multi=1 nf=1 sigma=1 \
        sd=540.0n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 mismatchflag=1
    M24 (VS VSM VDDH VDDH) pch_5_mac l=500n w=2u multi=1 nf=1 sigma=1 \
        sd=540.0n ad=9.6e-13 as=9.6e-13 pd=4.96u ps=4.96u nrd=0.135 \
        nrs=0.135 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 mismatchflag=1
    M27 (VD VSSH VS VS) pch_5_mac l=500n w=10u multi=1 nf=1 sigma=1 \
        sd=540.0n ad=4.8e-12 as=4.8e-12 pd=20.96u ps=20.96u nrd=0.027 \
        nrs=0.027 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 mismatchflag=1
    M28 (VDM VSSH VSM VSM) pch_5_mac l=500n w=10u multi=1 nf=1 sigma=1 \
        sd=540.0n ad=4.8e-12 as=4.8e-12 pd=20.96u ps=20.96u nrd=0.027 \
        nrs=0.027 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 mismatchflag=1
    I3 (VS OUT VDDH VSSH) INVD1
    I2 (IN net11 VDDL VSSL) INVD1
    I1 (net11 net12 VDDL VSSL) INVD1
    I0 (IN net13 VDDL VSSL) INVD1
    M21 (VD net12 VSSL VSSL) nch_5_mac l=600n w=4u multi=1 nf=1 sigma=1 \
        sd=540.0n ad=1.92e-12 as=1.92e-12 pd=8.96u ps=8.96u nrd=0.0675 \
        nrs=0.0675 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 mismatchflag=1
    M22 (VDM net13 VSSL VSSL) nch_5_mac l=600n w=4u multi=1 nf=1 sigma=1 \
        sd=540.0n ad=1.92e-12 as=1.92e-12 pd=8.96u ps=8.96u nrd=0.0675 \
        nrs=0.0675 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 mismatchflag=1
    M25 (VS VSSH VSSH VSSH) nch_5_mac l=600n w=4u multi=1 nf=1 sigma=1 \
        sd=540.0n ad=1.92e-12 as=1.92e-12 pd=8.96u ps=8.96u nrd=0.0675 \
        nrs=0.0675 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 mismatchflag=1
    M26 (VSM VSSH VSSH VSSH) nch_5_mac l=600n w=4u multi=1 nf=1 sigma=1 \
        sd=540.0n ad=1.92e-12 as=1.92e-12 pd=8.96u ps=8.96u nrd=0.0675 \
        nrs=0.0675 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 mismatchflag=1
ends level_shifter
// End of subcircuit definition.

// Library name: Buck
// Cell name: Buck_Core
// View name: schematic
subckt Buck_Core GND VC VIN VOUT
    I1 (VCL VGL VIN GND) driver_s2
    M2 (SW VGL GND GND) nch_5_mac l=600n w=1.000m multi=N2 nf=10 sigma=1 \
        sd=540.0n ad=2.7e-10 as=3.12e-10 pd=1.0054m ps=1.20624m \
        nrd=0.00027 nrs=0.00027 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 \
        mismatchflag=1
    M1 (VIN VGH SW SW) nch_5_mac l=600n w=1.000m multi=N1 nf=10 sigma=1 \
        sd=540.0n ad=2.7e-10 as=3.12e-10 pd=1.0054m ps=1.20624m \
        nrd=0.00027 nrs=0.00027 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 \
        mismatchflag=1
    I3 (VC VCH VCL VIN GND) deadtime
    C1 (VBST SW) capacitor c=CBST
    L0 (SW VOUT) inductor l=L r=DCR
    I0 (VCH_LS VGH VBST SW) driver_s1
    I10 (VCH VCH_LS VBST VIN SW GND) level_shifter
    D2 (VIN VBST GND) sbd_dio_ga_12_3t dti=0 multi=20
ends Buck_Core
// End of subcircuit definition.

// Library name: Buck
// Cell name: tb
// View name: schematic
I11 (GND VC VIN VOUT) Buck_Core
C0 (VOUT net010) capacitor c=COUT
R0 (net010 GND) resistor r=ESR
V0 (VIN 0) vsource dc=VIN type=dc
V1 (GND 0) vsource dc=0 type=dc
V2 (VC 0) vsource dc=0 type=pulse val0=0 val1=VIN period=1/fsw rise=1n \
        fall=1n width=D*1/fsw
I6 (VOUT GND) isource dc=ILOAD type=dc
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
tran tran stop=T_TRAN errpreset=conservative cmin=10a write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save V0:p 
saveOptions options save=allpub
